US04304722
4,8-Dimethoxybenzo[1,2-b:5,4-b']difuran-3(2H)-one (Formula LXXIII of Chart E: R3 and R4 are methoxy).
(Z)-2-[(1-pyrrolidinyl)methylene]-4,8-dimethoxybenzo[1,2-b:-5,4-b']difuran-3-(2H)-one (formula LXII). The title compound of Example 11 (6.5 g, 20 mmoles) and potassium carbonate are added to CH3CN (200 ml). To this solution is added pyrrolidine (1.42 g, 20 mmoles) and the resulting solution is stirred at room temperature for 18 hr. The CH3CN is removed in vacuo to leave a yellow solid which is washed with water, filtered, and dried to give 3.19 g (54% yield) of the above product having a melting point of 216°-217° C. Carbon:hydrogen:nitrogen analysis ratio is 64.86:5.55:4.42. Mass spectrum exhibits peaks at 315, 301, 300, 286, 285, 231, 230, and 217. NMR absorptions are observed at 7.5, 7.19, 6.91, 4.29, 4.12, 3.72, 1.99. Infrared absorptions are observed at 3140, 3100, 1675, 1625, 1600, 1585, 1545, 1495, 1340, 1270, 1235, 1125, and 1065 cm-1.

reactant | (Z)-2-[(1-pyrrolidinyl)methylene]-4,8-dimethoxybenzo[1,2-b:-5,4-b']difuran-3-(2H)-one | N1(CCCC1)\C=C/1\C(C2=C(O1)C(=C1OC=CC1=C2OC)OC)=O | C17H17NO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 200 ml | CC#N | C2H3N
product | 4,8-Dimethoxybenzo[1,2-b:5,4-b']difuran-3(2H)-one | 20 mmoles, 6.5 g | COC1=C2C(OC=C2)=C(C=2OCC(C21)=O)OC | C12H10O5
